US08895313B2
3-Amino-N-[4-(6-hydroxybenzothiazol-2-yl)-phenyl]-benzamide
Prepared as described in the Demethylation section using 3-amino-N-[4-(6-methoxybenzothiazol-2-yl)-phenyl]-benzamide (50 mg, 0.13 mmol) in dry DCM (3 ml) and BBr3 (1.0 M solution in DCM, 0.67 ml, 0.67 mmol) to give the title compound (29 mg, 60%) as a pale brown solid after work-up and flash chromatography (1:1 Hexane/EtOAc followed by EtOAc).

reactant | 3-amino-N-[4-(6-methoxybenzothiazol-2-yl)-phenyl]-benzamide | 0.13 mmol, 50 mg | NC=1C=C(C(=O)NC2=CC=C(C=C2)C=2SC3=C(N2)C=CC(=C3)OC)C=CC1 | C21H17N3O2S
reactant | BBr3 | 0.67 mmol, 1.0 M, 0.67 ml | B(Br)(Br)Br | BBr3
reactant | Hexane EtOAc | CCCCCC.CCOC(=O)C
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | 3-Amino-N-[4-(6-hydroxybenzothiazol-2-yl)-phenyl]-benzamide | 29 mg, 60% | NC=1C=C(C(=O)NC2=CC=C(C=C2)C=2SC3=C(N2)C=CC(=C3)O)C=CC1 | C20H15N3O2S
